US09120773B2
In a stream of argon, 0.71 g (3 mmol) of 9,9-dimethyl-2-fluoreneboronic acid, 1.4 g (3 mmol) of 2-(3,5-dibromophenyl)-4,6-diphenylpyrimidine and 34.7 mg (0.03 mmol) of tetrakis(triphenylphosphine)palladium were suspended in a mixed solvent composed of 115 mL of toluene and 15 mL of ethanol, and the resultant suspension was heated to 50° C. To the suspension, 9 mL (9 mmol) of an aqueous 1M K2CO3 solution was gradually added dropwise, and the mixture was stirred for 18 hours. The resultant reaction mixture was cooled to room temperature, and then, 0.896 g (4.5 mmol) of 4-(2-pyridyl)phenylboronic acid and 9 mL (9 mmol) of an aqueous 1M K2CO3 solution were added to the reaction mixture. The resultant mixture was heated to 60° C., and maintained at that temperature for 3.5 hours while being stirred. The obtained reaction mixture was cooled to room temperature, and then distilled under a reduced pressure to remove all volatile materials. Methanol was added to the concentrate, and the thus-deposited solid was collected by filtration. The obtained crude product was purified by silica gel chromatography using a hexane/chloroform (1:2) mixed solvent as an eluent to give 0.85 g of the target 2-[5-(9,9-dimethylfluoren-2-yl)-4′-(2-pyridyl)biphenyl-3-yl]-4,6-diphenylpyrimidine as a white solid (yield: 43.3%).

reactant | 9,9-dimethyl-2-fluoreneboronic acid | 3 mmol, 0.71 g | CC1(C2=CC=CC=C2C=2C=CC(=CC12)B(O)O)C | C15H15BO2
reactant | 2-(3,5-dibromophenyl)-4,6-diphenylpyrimidine | 3 mmol, 1.4 g | BrC=1C=C(C=C(C1)Br)C1=NC(=CC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C22H14Br2N2
reactant | K2CO3 | 1M | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-(2-pyridyl)phenylboronic acid | 4.5 mmol, 0.896 g | N1=C(C=CC=C1)C1=CC=C(C=C1)B(O)O | C11H10BNO2
reactant | K2CO3 | 1M | C(=O)([O-])[O-].[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.03 mmol, 34.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | toluene | 115 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[5-(9,9-dimethylfluoren-2-yl)-4′-(2-pyridyl)biphenyl-3-yl]-4,6-diphenylpyrimidine | yield: 43.3% | CC1(C2=CC=CC=C2C=2C=CC(=CC12)C=1C=C(C=C(C1)C1=CC=C(C=C1)C1=NC=CC=C1)C1=NC(=CC(=N1)C1=CC=CC=C1)C1=CC=CC=C1)C | C48H35N3
